US04299615
Preparation of O,O-Diethyl 2,6-Dichlorobenzylphosphonate
2,6-Dichlorobenzyl chloride (1200 grams) and triethyl phosphate (1115 grams) were charged into a glass reaction vessel equipped with a mechanical stirrer, thermometer and reflux condenser. The reaction mixture was heated for a period of 60 minutes until the temperature reached 195° C. After this time the mixture was cooled and thereafter distilled under reduced pressure to yield the desired product O,O-diethyl 2,6-dichlorobenzylphosphonate having a boiling point of 158° to 168° C. at 0.4-0.6 mm of Hg pressure.

reactant | 2,6-Dichlorobenzyl chloride | 1200 grams | ClC1=C(CCl)C(=CC=C1)Cl | C7H5Cl3
reactant | triethyl phosphate | 1115 grams | P(=O)(OCC)(OCC)OCC | C6H15O4P
product | O,O-diethyl 2,6-dichlorobenzylphosphonate | ClC1=C(CP(OCC)(OCC)=O)C(=CC=C1)Cl | C11H15Cl2O3P
